US07205296B2
A mixture of 3-(4-aminophenyl)-6-fluoro-7-(methylamino)-2,3-dihydrobenzo[e][1,3]oxazin-4-one (Ex. 4) (130 mg, 0.45 mmol) and (5-Chloro-thiophene-2-sulfonyl)-carbamic acid ethyl ester (150 mg, 0.53 mmol, 1.2 eq) in dry 1,4-dioxan (3 mL) was heated at 110° C. for 2 hr. Upon cooling, the reaction was concentrated in vacuo and the crude residue was purified by HPLC (C-18) to give 86 mg (37%) of pure 1-(5-chlorothiophen-2-ylsulfonyl)-3-(4-(6-fluoro-7-(methylamino)-4-oxo-2H-benzo[e][1,3]oxazin-3(4H)-yl)phenyl)urea. RP-HPLC: 2.49 min; ES-MS (M+H)+=511.0; 1H-NMR (MeOH-d4) δ (ppm): 2.8 (s, 3 H), 5.4 (s, 2 H), 6.2 (d, 1 H), 6.9 (d, 2 H), 7.1 (d, 2 H), 7.3 (d, 1 H), 7.4 (d, 1 H), 7.5 (d, 2 H).

reactant | 3-(4-aminophenyl)-6-fluoro-7-(methylamino)-2,3-dihydrobenzo[e][1,3]oxazin-4-one | 0.45 mmol, 130 mg | NC1=CC=C(C=C1)N1COC2=C(C1=O)C=C(C(=C2)NC)F | C15H14FN3O2
reactant | (5-Chloro-thiophene-2-sulfonyl)-carbamic acid ethyl ester | 0.53 mmol, 150 mg, 1.2 eq | C(C)OC(NS(=O)(=O)C=1SC(=CC1)Cl)=O | C7H8ClNO4S2
solvent | 1,4-dioxan | 3 mL | O1CCOCC1 | C4H8O2
product | 1-(5-chlorothiophen-2-ylsulfonyl)-3-(4-(6-fluoro-7-(methylamino)-4-oxo-2H-benzo[e][1,3]oxazin-3(4H)-yl)phenyl)urea | 86 mg, 37% | ClC1=CC=C(S1)S(=O)(=O)NC(=O)NC1=CC=C(C=C1)N1COC2=C(C1=O)C=C(C(=C2)NC)F | C20H16ClFN4O5S2
